US05453421
D. (3S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl]-2-phenyl-1-cyclopentenamide
The title compound was prepared from (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (the title B compound of Example 1) and 2-phenyl-1-cyclopentenecarboxylic acid (the title C compound) by the same method as described for the compound of Example 2 to give a white powder, m.p. 156°-158° C. [α]D =+36.8° (c=0.72, MeOH).

reactant | (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | 2-phenyl-1-cyclopentenecarboxylic acid | C1(=CC=CC=C1)C1=C(CCC1)C(=O)O | C12H12O2
solvent | MeOH | CO | CH4O
product | (3S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl]-2-phenyl-1-cyclopentenamide | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC(=O)C2=C(CCC2)C2=CC=CC=C2)C1 | C24H24N2O3
